* C:\Users\elmar\Desktop\UU\UppSense\ltspice\current source\current_source.asc
R1 N003 0 50
R2 N001 N002 {R}
Q1 N002 N004 N003 0 2N3904
V1 IN N005 1.5
V2 N001 0 5
V3 V+ 0 10
V4 0 V- 10
V5 N005 0 0
XU1 IN N003 V+ V- N004 AD8615
.model NPN NPN
.model PNP PNP
.lib C:\Users\elmar\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
;tran 0 10ms 0 100us
.include ad8615.cir
.op 1
.step param R 50 200 1
.op
.backanno
.end
